* C:\Users\nicla\Documents\GitHub\esd5_project\rf_front_end\bandpass_filter\bandpass_scaled.asc
L1 N002 P001 {99.23n * (1+{tol})} ; L1
L2 N003 P002 {159.16n * (1+{tol})} ; L2
L3 N004 P003 {99.23n * (1+{tol})} ; L3
C1 N002 0 {14.16p * (1+{tol})} ; C1
C2 N003 0 {57.36p * (1+{tol})} ; C2
C3 N004 0 {57.36p * (1+{tol})} ; C3
R1 N002 N001 50
V1 N001 0 AC 1
C4 N005 0 {14.16p * (1+{tol})} ; C4
R2 N005 0 50
L4 N004 0 {74.17p * (1+{tol})} ; L4
L5 N005 0 {300.37p * (1+{tol})} ; L5
L6 N003 0 {74.17p * (1+{tol})} ; L6
L7 N002 0 {300.37p * (1+{tol})} ; L7
C5 N003 P001 {42.87f * (1+{tol})} ; C5
C6 N004 P002 {26.73f * (1+{tol})} ; C6
C7 N005 P003 {42.87f * (1+{tol})} ; C7
.ac dec 1000 1Giga 5Giga
.step param tol -0.16 0.16 0.04
.backanno
.end
